US07910740B2
[5-(2-Chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 6 without purification of the intermediate from 128 mg (1 mmol) 2-chloroaniline and 421 mg (6 mmol) methyl vinylketone. The crude chloroketone was used without further purification in the next step with 53 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 40 mg (47%) [5-(2-chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a brown solid. MS ISP (m/e): 425.1/427.2 (100/44) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.15 (s, 1H), 7.63 (s, 1H), 7.53 (s, 1H), 7.47-7.22 (m, 6H), 7.01 (s, 1H), 4.07 (s, 2H), 3.77 (s, 3H), 2.25 (s, 3H), 2.14 (s, 3H).

reactant | 2-chloroaniline | 1 mmol, 128 mg | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | methyl vinylketone | 6 mmol, 421 mg | CC(=O)C=C | C4H6O
reactant | chloroketone | ClC(=O)Cl | CCl2O
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.2 mmol, 53 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | [5-(2-Chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=C(CC2=C(N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C)C=CC=C1 | C22H21ClN4OS
